US05686463
a) cis Piperidine-3,4-dicarboxylic acid-3-methyl ester hydrochloride
Pyridine-3,4-dicarboxylic acid 3-methyl ester (5.00 g, 27.6 mmol), prepared by the method of J. C. S. Perkin I, 1981, 3012, in methanol (50 ml) was treated with excess ethereal hydrogen chloride and the solution evaporated to dryness. The resulting salt in methanol (100 ml) was hydrogenated over platinum oxide (500 mg) at 50 p.s.i. and ambient temperature until uptake ceased (24 h). The catalyst was removed by filtration through Hyflo and the filtrate evaporated to give the title compound (6.17 g, 100%), m.p. 180°-184° (dec) δ(360 MHz, D2O ) 2.10-2.20 (2H, m, 5-CH2); 3.19-3.25 (2H, m, 3-CH, 4-CH); 3.27-3.32 (1H, m, 6-CH ax); 3.34-3.39 (1H, m, 6-CH eq); 3.51 (1H,dd, J13 Hz and 4 Hz, 2-CH eq); 3.60 91H, dd, J 7.5 Hz and 13 Hz, 2-CH ax).

reactant | Pyridine-3,4-dicarboxylic acid 3-methyl ester | 27.6 mmol, 5.00 g | COC(=O)C=1C=NC=CC1C(=O)O | C8H7NO4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | cis Piperidine-3,4-dicarboxylic acid-3-methyl ester hydrochloride | 6.17 g, 100% | Cl.COC(=O)[C@@H]1CNCC[C@@H]1C(=O)O | InChI=1S/C8H13NO4.ClH/c1-13-8(12)6-4-9-3-2-5(6)7(10)11;/h5-6,9H,2-4H2,1H3,(H,10,11);1H/t5-,6+;/m0./s1
